US08871792B2
(R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid Ethoxycarbonyloxymethyl Ester
2,6-Lutidine (407 mg, 3.8 mmol) was added to a solution of (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid (200 mg, 380 mmol), carbonic acid chloromethyl ester ethyl ester (105 mg, 760 μmol) and NaI (114 mg, 760 μmol) in DMF (10 mL). The mixture was stirred overnight at room temperature. Water (30 mL) was added and the mixture was extracted with EtOAc (3×40 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by preparative HPLC (MeCN—H2O (0.1% TFA); Gradient 60-70) to yield the title compound as a white solid (56 mg). LC-MS: 630.1 [M+H]+. 1H-NMR: (CD3OD-d4, 400 MHz) δ 1.24 (t, J=5.9 Hz, 3H), 3.30-3.33 (m, 2H), 4.17-4.32 (m, 4H), 4.45 (t, J=4.2 Hz, 1H), 5.78 (br, 2H), 7.20-7.28 (m, 1H), 7.57-7.29 (m, 10H), 7.92-7.95 (m, 1H).

reactant | 2,6-Lutidine | 3.8 mmol, 407 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid | 380 mmol, 200 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)O)O)F | C26H20ClF2N3O5
reactant | carbonic acid chloromethyl ester ethyl ester | 760 μmol, 105 mg | C(C)OC(OCCl)=O | C4H7ClO3
reactant | NaI | 760 μmol, 114 mg | [Na+].[I-]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 30 mL | O | H2O
product | (R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid Ethoxycarbonyloxymethyl Ester | 56 mg | C(C)OC(=O)OCOC([C@@H](CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C30H26ClF2N3O8
